US08685977B2
tert-butyl 2,4,6-trifluorobenzoate
To a solution of 2,4,6-trifluorobenzoic acid (2.0 g, 11.3 mmol) and dimethylaminopyridine (139 mg, 1.14 mmol) in tert-butanol (30 mL) was added di-tert-butyldicarbonate (4.95 g, 22.7 mmol), and the reaction heated to 40° C. for 18 hours. The reaction was quenched with 1M HCl and extracted into ethyl acetate. The combined organics were washed with 1M NaOH, followed by brine then concentrated in vacuo to afford the title compound as a pale yellow oil (2.63 g, 100%).

reactant | 2,4,6-trifluorobenzoic acid | 11.3 mmol, 2.0 g | FC1=C(C(=O)O)C(=CC(=C1)F)F | C7H3F3O2
reactant | dimethylaminopyridine | 1.14 mmol, 139 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | di-tert-butyldicarbonate | 22.7 mmol, 4.95 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tert-butanol | 30 mL | C(C)(C)(C)O | C4H10O
product | tert-butyl 2,4,6-trifluorobenzoate | 2.63 g, 100% | FC1=C(C(=O)OC(C)(C)C)C(=CC(=C1)F)F | C11H11F3O2
